US07935715B2
The crude 6-chloro-pyridine-3-sulfinic acid sodium salt (4.7 mmol) was suspended in DMF (20 mL). Pyridine (0.8 mL) and ethyl α-bromoisobutyrate (1 mL) were added. The reaction was stirred at 50° C. under nitrogen for 18 h. The reaction mixture was partitioned between diethyl ether (100 mL) and water (50 mL). The organic layer was washed with brine (50 mL) and dried over Na2SO4. Filtration, concentration under reduced pressure, followed by column chromatography (silica, eluent heptanes, 0-25% ethyl acetate) afforded 0.83 g of 2-(6-chloropyridine-3-sulfonyl)-2-methyl-propionic acid ethyl ester.

reactant | 6-chloro-pyridine-3-sulfinic acid sodium salt | 4.7 mmol | [Na+].ClC1=CC=C(C=N1)S(=O)[O-]
reactant | Pyridine | 0.8 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl α-bromoisobutyrate | 1 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(6-chloropyridine-3-sulfonyl)-2-methyl-propionic acid ethyl ester | 0.83 g | C(C)OC(C(C)(C)S(=O)(=O)C=1C=NC(=CC1)Cl)=O | C11H14ClNO4S
